US08957068B2
To a solution of 1-bromo-4-(difluoromethyl)-2-fluorobenzene (311 mg, 1.382 mmol) in THF (2.99 mL) was added butyllithium (1.6M solution in hexanes; 0.881 mL, 1.410 mmol) over ˜5 min at −78° C. The reaction mixture was stirred for 30 min at −78° C. then DMF (0.161 mL, 2.073 mmol) was added dropwise over ˜1 min. Stirring was continued for 20 min. The reaction mixture was quenched with aqueous 1M HCl solution/MeOH (2:1, 3 mL) and allowed to warm to room temperature. The mixture was diluted with 5 mL of water. The separated aqueous layer was with ether (5 mL). The combined organic layers were washed with 1M aqueous NaOH solution (10 mL) and saturated brine (10 mL), dried over MgSO4, filtered off and concentrated under reduced pressure. Repeated reaction with 420 mg of 1-bromo-4-(difluoromethyl)-2-fluorobenzene and combined crude materials for purification. The crude material was purified by column chromatography [SiO2, 24 g, heptane/ethyl acetate], providing 4-(difluoromethyl)-2-fluorobenzaldehyde (162.8 mg) as a yellow oil.

reactant | 1-bromo-4-(difluoromethyl)-2-fluorobenzene | 1.382 mmol, 311 mg | BrC1=C(C=C(C=C1)C(F)F)F | C7H4BrF3
reactant | butyllithium | 1.410 mmol, 1.6M, 0.881 mL | C(CCC)[Li]
reactant | DMF | 2.073 mmol, 0.161 mL | CN(C)C=O | C3H7NO
solvent | THF | 2.99 mL | C1CCOC1 | C4H8O
product | 4-(difluoromethyl)-2-fluorobenzaldehyde | 162.8 mg | FC(C1=CC(=C(C=O)C=C1)F)F | C8H5F3O
